US04950674
Cyclohexyl[1-(phenylsulfonyl)-4-piperidinyl]methanone
To a solution of 25.1 g (0.085 mole) of 1-(phenylsulfonyl) -4-piperidine-carboxylic acid, ethyl ester in 500 ml of dry tetrahydrofuran cooled to 0° C. and under an atmosphere of nitrogen, was added 95 ml of a 2 molar solution(0.19 mole) of cyclohexylmagnesium bromide in ether. The mixture was stirred for 2 hr at ambient temperature and then was quenched on an icy solution of ammonium chloride. The mixture was extracted with methylene chloride. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give a semisolid material. This was recrystallized from ethanol to give 8.50 g (29.8% yield) of title compound as a white, crystalline solid, m.p. 141°-143° C.

reactant | 1-(phenylsulfonyl) -4-piperidine-carboxylic acid, ethyl ester | 0.085 mole, 25.1 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C(=O)OCC | C14H19NO4S
reactant | cyclohexylmagnesium bromide | C1(CCCCC1)[Mg]Br
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Cyclohexyl[1-(phenylsulfonyl)-4-piperidinyl]methanone | 8.50 g, 29.8% yield | C1(CCCCC1)C(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C18H25NO3S
